US06013632
One equivalence of glutathione in saline is reacted with excess iodine to give about one-half equalivent of GSSG.

reactant | glutathione | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | iodine | II | I2
product | Glutathione Disulfide | O=C(N[C@H](C(NCC(O)=O)=O)CSSC[C@H](NC(CC[C@H](N)C(O)=O)=O)C(NCC(O)=O)=O)CC[C@H](N)C(O)=O | C20H32N6O12S2
